US08097759B2
5-Bromo-2-hydroxy-N-[4-nitro-3-(trifluoromethyl)phenyl]benzamide (Compound No. 117)
Using 5-bromosalicylic acid and 4-nitro-3-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 4-nitro-3-(trifluoromethyl)aniline | [N+](=O)([O-])C1=C(C=C(N)C=C1)C(F)(F)F | C7H5F3N2O2
product | 5-Bromo-2-hydroxy-N-[4-nitro-3-(trifluoromethyl)phenyl]benzamide | Yield: 49.7% | BrC=1C=CC(=C(C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C(F)(F)F)C1)O | C14H8BrF3N2O4
